US07666868B2
A3. [5-(4-{3-[(E)-2-(Tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-pyrrole-1-sulfonyl}-phenyl)-pyridin-2-yl]-carbamic acid tert-butyl ester
(E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (0.95 g) and [5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester (1.00 g) are dissolved under an inert gas atmosphere in dimethylethylenglycole (35 mL), and Pd(PPh3)3Cl2 (0.22 g) and a sodium carbonate solution (2.21 g dissolved in 21 water) is added and it is heated for 0.5 h at 90° C. After cooling the mixture is diluted with water, extracted with chloroform, and the combined organic phases are dried and evaporated. The residue is purified by silica gel flash chromatography CHCl3/THF (4:1). 0.97 g of the title compound are obtained with a melting point of 140-146° C.

reactant | (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.95 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C18H19BrN2O5S
reactant | [5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H25BN2O4
reactant | sodium carbonate | 2.21 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | [5-(4-{3-[(E)-2-(Tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-pyrrole-1-sulfonyl}-phenyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.97 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)\C=C\C(NOC1OCCCC1)=O)=O | C28H32N4O7S
